US07189851B2
I. 5-[(9aS)-2-(2,4-difluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]-2-pyrazinecarboxylic acid
Ethyl 5-[(9aS)-2-(2,4-difluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]-2-pyrazinecarboxylate (0.250 g, 0.555 mmol) was dissolved in THF (4 mL), H2O (1 mL) and MeOH (1 mL) and LiOH monohydrate (0.035 g, 0.832 mmol) was added. The reaction mixture was stirred at ambient temperature for 45 min and then acidified to pH 5. The organics were extracted with CH2Cl2 and then dried (Na2SO4), filtered and concentrated to a white solid (0.200 g, 0.473 mmol, 85% yield): 1H NMR (CD3OD, 400 MHz) δ 9.36 (s, 2H), 7.74 (s, 1H), 7.41–7.35 (m, 1H), 6.97–6.91 (m, 2H), 4.86–4.83 (m, 1H), 4.33 (s, 2H), 3.71–3.64 (m, 1H), 3.48–3.41 (m, 1H), 2.46–2.38 (m, 3H), 1.42–1.38 (m, 1H).

reactant | Ethyl 5-[(9aS)-2-(2,4-difluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]-2-pyrazinecarboxylate | 0.555 mmol, 0.250 g | FC1=C(CC=2C=C(C3=C([C@@H]4CCCN4C3=O)N2)C=2N=CC(=NC2)C(=O)OCC)C=CC(=C1)F | C24H20F2N4O3
reactant | H2O | 1 mL | O | H2O
reactant | MeOH | 1 mL | CO | CH4O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-[(9aS)-2-(2,4-difluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]-2-pyrazinecarboxylic acid | 0.473 mmol, 0.200 g, 85% yield | FC1=C(CC=2C=C(C3=C([C@@H]4CCCN4C3=O)N2)C=2N=CC(=NC2)C(=O)O)C=CC(=C1)F | C22H16F2N4O3
